US05212320
To a solution of 3-isobutylbenzonitrile (7.0 g) in toluene (150 ml) was added a 1.5M solution of diisobutylaluminum hydride in toluene (88 ml) at 25° C. over 30 minutes and the mixture was stirred at 25° C. for 2 hours. Another 1.5M solution of diisobutylaluminum hydride in toluene (30 ml) was added, and the mixture was stirred at 25° C. for 1 hour. The mixture was poured into a mixture of ether, aqueous ammonium chloride and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel (150 g) eluting with a mixture of toluene and hexane (2:1) to give 3-isobutylbenzaldehyde (4.72 g) as a colorless oil.

reactant | 3-isobutylbenzonitrile | 7.0 g | C(C(C)C)C=1C=C(C#N)C=CC1 | C11H13N
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 88 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-isobutylbenzaldehyde | 4.72 g | C(C(C)C)C=1C=C(C=O)C=CC1 | C11H14O
